US06051712
In an analogous manner to that described in Example 1 (g), by alkylating tert-butyl (3RS,4RS)-4-(4-allyloxy-phenyl)-3-hydroxy-piperidine-1-carboxylate [Example 86 (b)] with 2-chloromethyl-1-(2-methoxy-ethoxy)-naphthalene there was obtained (3RS,4RS)-4-(4-allyloxy-phenyl)-3-[1-(2-methoxy-ethoxy)-naphthalen-2-ylmethoxy)-piperidine-1-carboxylate, from which after cleavage of the allyl group by means of bis-(triphenylphosphine)-palladium(II) diacetate analogously to Example 152 (e) there resulted tert-butyl (3RS,4RS)-4-(4-hydroxy-phenyl)-3-[1-(2-methoxy-ethoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate, alkylation of which analogously to Example 44 (e) with 3-bromomethyl-benzonitrile gave tert-butyl (3RS,4RS)-4-[4-(3-cyano-benzyloxy)-phenyl]-3-[1-(2-methoxy-ethoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate as a colourless oil; MS: 623 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-(4-hydroxy-phenyl)-3-[1-(2-methoxy-ethoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate | OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=C(C2=CC=CC=C2C=C1)OCCOC | C30H37NO6
reactant | 3-bromomethyl-benzonitrile | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
catalyst | bis-(triphenylphosphine)-palladium(II) diacetate | CC(=O)O.CC(=O)O.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | tert-butyl (3RS,4RS)-4-[4-(3-cyano-benzyloxy)-phenyl]-3-[1-(2-methoxy-ethoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate | C(#N)C=1C=C(COC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=C(C3=CC=CC=C3C=C2)OCCOC)C=CC1 | C38H42N2O6
